US07799798B2
E. Synthesis of 6-(6-hydroxy-1,3-benzodioxol-5-yl)-4-pentyl-4,6-dihydro-5H-thieno[3,2-b]pyrrol-5-one
To a solution of 6-hydroxy-6-(6-hydroxy-1,3-benzodioxol-5-yl)-4-pentyl-4,6-dihydro-5H-thieno[3,2-b]pyrrol-5-one (1.71 g, 4.70 mmol) in CH2Cl2 (30.0 mL) were added trifluoroacetic acid (6.00 g, 52.6 mmol) and triethylsilane (5.00 g, 43.0 mmol) at 0° C. The reaction mixture was stirred at ambient temperature for 16 hours and diluted with CH2Cl2 (50.0 mL). The mixture was washed with water (2×50.0 mL), dried over Na2SO4 and filtered. The filtrate was evaporated under reduced pressure. The residue was subjected to column chromatography to give the title compound (0.80 g, 49%) as a green solid: MS (ES+) m/z 346.4 (M+1).

reactant | 6-hydroxy-6-(6-hydroxy-1,3-benzodioxol-5-yl)-4-pentyl-4,6-dihydro-5H-thieno[3,2-b]pyrrol-5-one | 4.70 mmol, 1.71 g | OC1(C2=C(N(C1=O)CCCCC)C=CS2)C2=CC1=C(OCO1)C=C2O | C18H19NO5S
reactant | trifluoroacetic acid | 52.6 mmol, 6.00 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 43.0 mmol, 5.00 g | C(C)[SiH](CC)CC | C6H16Si
solvent | CH2Cl2 | 30.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50.0 mL | C(Cl)Cl | CH2Cl2
product | 6-(6-hydroxy-1,3-benzodioxol-5-yl)-4-pentyl-4,6-dihydro-5H-thieno[3,2-b]pyrrol-5-one | 0.80 g, 49% | OC=1C(=CC2=C(OCO2)C1)C1C2=C(N(C1=O)CCCCC)C=CS2 | C18H19NO4S
